US04536512
Step B: Preparation of diethyl 5-(2,3-dihydro-1H-pyrrolizin-5-oyl)-6-methyl-2,3-dihydro-1H-pyrrolizine-1,7-dicarboxylate
To an ice-bath cooled solution of diethyl 6-methyl-2,3-dihydro-1H-pyrrolizine-1,7-dicarboxylate (2.0 g, 0.0075 m) in methylene chloride (25 ml) was added stannic chloride (2.6 ml, 0.0225 m) all at once. A solution of 2,3-dihydro-1H-pyrrolizine-5-carbonyl chloride (1.1 g, 0.0075 m) in methylene chloride (10 ml) was then added dropwise, and the resultant mixture stirred cold for two hours, then at ambient temperatures overnight. The reaction mixture was then quenched with excess ice-H2O and ether, the organic layer removed, washed well with water, dried over sodium sulfate, filtered, and concentrated in vacuo to a residue. Trituration with either yielded 1.75 g of diethyl 5-(2,3-dihydro-1H-pyrrolizin-5-oyl)-6-methyl-2,3-dihydro-1H-pyrrolizine-1,7-dicarboxylate as a white solid.

reactant | diethyl 6-methyl-2,3-dihydro-1H-pyrrolizine-1,7-dicarboxylate | 2.0 g | CC1=CN2CCC(C2=C1C(=O)OCC)C(=O)OCC | C14H19NO4
reactant | 2,3-dihydro-1H-pyrrolizine-5-carbonyl chloride | 1.1 g | C1CCN2C(=CC=C12)C(=O)Cl | C8H8ClNO
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | diethyl 5-(2,3-dihydro-1H-pyrrolizin-5-oyl)-6-methyl-2,3-dihydro-1H-pyrrolizine-1,7-dicarboxylate | C1CCN2C(=CC=C12)C(=O)C=1N2CCC(C2=C(C1C)C(=O)OCC)C(=O)OCC | C22H26N2O5
